US04599361
(a) Ethyl 2 -(diethylphosphono)propanoate
Ethyl 2-bromopropanoate (30.0 g.) and triethylphosphite (70.0 g.) were heated overnight at 150° C. under an air condenser. The resulting crude mixture was purified by distillation, the ethyl 2-(diethylphosphono)propanoate was collected at 66°-68° C. at 0.3-0.5 mm.Hg.

reactant | Ethyl 2-bromopropanoate | 30.0 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | triethylphosphite | 70.0 g | C(C)OP(OCC)OCC | C6H15O3P
product | Ethyl 2 -(diethylphosphono)propanoate | C(C)OP(=O)(OCC)C(C(=O)OCC)C | C9H19O5P
